US07674823B2
(d) 2-piperazin-1-yl-benzo[h]chromen-4-one (Compound 311)
Prepared from 2-ethylsulphanyl-benzo[h]chromen-4-one (0.384 g, 1.5 mmol) and piperazine (1.29 g, 15 mmol). Recrystallisation from ethyl acetate provided an off white solid. (0.121 g, 0.43 mmol, 28% yield) mp 208-209° C. UV λmax=317.0, 273.0, 255.0, 216.5 nm (Methanol). 1H NMR (200 MHz, CDCl3) δ 3.01 (4H, m); 3.55 (4H, m); 5.57 (1H, s); 7.56 (2H, m); 7.66 (1H, d); 7.85 (1H, m); 8.08 (1H, d); 8.21 (1H, m). EIMS m/z (EI+): 280 (M+), 261, 238, 225, 170, 139. Anal. Calcd for C17H16N2O2.0.3H2O: C, 71.46; H, 5.81; N, 9.80. Found: C, 71.88; H, 5.91; N, 9.33.

reactant | 2-ethylsulphanyl-benzo[h]chromen-4-one | 1.5 mmol, 0.384 g | C(C)SC=1OC2=C3C(=CC=C2C(C1)=O)C=CC=C3 | C15H12O2S
reactant | piperazine | 15 mmol, 1.29 g | N1CCNCC1 | C4H10N2
solvent | Methanol | CO | CH4O
product | 2-piperazin-1-yl-benzo[h]chromen-4-one | 28% yield | N1(CCNCC1)C=1OC2=C3C(=CC=C2C(C1)=O)C=CC=C3 | C17H16N2O2
